US05521179
To a 5 liter, 3-necked flask equipped with a mechanical stirrer, thermometer, and a nitrogen inlet were added 3-benzyloxycarbonylamino-6-(2-chlorophenyl)pyrid-2-one (158.0 g, 0.445 mol) and N,N-dimethyformamide (dried over molecular sieves, 3.0 L) giving a tan suspension. Sodium hydride (60% mineral oil dispersion, 19.6 g, 0.490 mol) was added in one portion at ambient temperature. The reaction mixture was stirred at room temperature for 1.5 h, gradually becoming a clear amber solution; then it was was cooled with an ice/water bath to 5° C. N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)-2-iodoacetamide (222.5 g, 0.490 mol) was added in one portion as a dry solid and washed down with N,N-dimethylformamide (200 mL). The reaction flask was packed in ice and the mixture stirred over the weekend (50 h), gradually warming to room temperature. For analysis of the reaction mixture an aliquot was partitioned between IN hydrochloric acid and ethyl acetate for TLC: dichloromethane:ethyl acetate (95:5), Rf (starting pyridone)=0.15, Rf (N-alkyated pyridone)=0.70, Rf (O-alkylated pyridone)=0.75. The reaction mixture was treated with water (100 mL) and acetic acid (25 mL) to neutralize any excess sodium hydride; then it was evaporated under pump vacuum at a bath temperature of 35° C. to remove most of the N,N-dimethylformamide. The residue was diluted with water (4 L) yielding a gummy precipitate. The aqueous mixture was extracted with ethyl acetate (1 L, followed by 4×500 mL). The combined extracts were washed successively with IN hydrochloric acid (2×500 mL), saturated sodium bicarbonate solution (2×500 mL), and brine (500 mL); dried (MgSO4), and evaporated to yield a thick amber syrup which was then pumped down under high vacuum. The crude syrup was redissolved in a mixture of hexane (1000 mL) and ether (200 mL) and seeded with authentic product. Crystallization ensued, and the mixture was stirred periodically with a spatula to complete the crystallization. The mixture was allowed to stand overnight at room temperature before collecting the crystals. The crystals were suction filtered, washed with ether/hexane (1:9) (3×200 mL) then dried in the vacuum oven at 50° C. to yield the N-alkylated product 2-[3-benzyloxycarbonylamino-6-(2 -chlorophenyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide as off-white crystals (193.5 g, 63.9%); mp 139°-141° C.

reactant | 3-benzyloxycarbonylamino-6-(2-chlorophenyl)pyrid-2-one | 0.445 mol, 158.0 g | C(C1=CC=CC=C1)OC(=O)NC=1C(NC(=CC1)C1=C(C=CC=C1)Cl)=O | C19H15ClN2O3
reactant | N,N-dimethyformamide | 3.0 L | CN(C=O)C | C3H7NO
reactant | Sodium hydride | 0.490 mol, 19.6 g | [H-].[Na+]
reactant | N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)-2-iodoacetamide | 0.490 mol, 222.5 g | [Si](C)(C)(C(C)(C)C)OC(C(C(C)C)NC(CI)=O)C(F)(F)F | C14H27F3INO2Si
solvent | hexane | 1000 mL | CCCCCC | C6H14
solvent | ether | 200 mL | CCOCC | C4H10O
product | 2-[3-benzyloxycarbonylamino-6-(2 -chlorophenyl)-2-oxo-1,2-dihydro-1-pyridyl]-N-(2-tert-butyldimethylsilyloxy-3,3,3-trifluoro-1-isopropylpropyl)acetamide | 193.5 g, 63.9% | C(C1=CC=CC=C1)OC(=O)NC=1C(N(C(=CC1)C1=C(C=CC=C1)Cl)CC(=O)NC(C(C(F)(F)F)O[Si](C)(C)C(C)(C)C)C(C)C)=O | C33H41ClF3N3O5Si
